US07041827B2
Step A Preparation of 2-[4-Bromophenyl]-7-methylimidazo[1,2-a]pyridine
A mixture of 2,4′-dibromoacetophenone (22.4 g) and 2-amino-4-picoline (8.68 g) in ethanol (80 mL) was heated at reflux temperature for 3 hours. The reaction mixture was cooled to ambient temperature and the crystalline solid isolated by filtration, washed with ethanol and dried in vacuo to give the title compound (13.1 g).

reactant | 2,4′-dibromoacetophenone | 22.4 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | 2-amino-4-picoline | 8.68 g | NC1=NC=CC(=C1)C | C6H8N2
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 2-[4-Bromophenyl]-7-methylimidazo[1,2-a]pyridine | 13.1 g | BrC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1 | C14H11BrN2
